### PR TITLE
feat(RingTheory/PowerSeries/ExponentialModule): add exponential module

### PR DESCRIPTION
**Pull request by mariainesdff**
Let `R` be a commutative ring. The exponential module of `R` is the set of all power series
`f : R⟦X⟧` that are of exponential type : `f (X + Y) = f X * f Y` where `X` and `Y` are two
indeterminates. It is an abelian group under multiplication, and an `R`-module under rescaling.

Co-authored by: @AntoineChambert-Loir

---

- [ ] depends on: #38615

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Sum.lean [hunk 1]
```diff
@@ -77,6 +77,12 @@ theorem add_pow [CommSemiring R] (x y : R) (n : ℕ) :
     (x + y) ^ n = ∑ m ∈ range (n + 1), x ^ m * y ^ (n - m) * n.choose m :=
   (Commute.all x y).add_pow n
 
+/-- A version of  the **binomial theorem** that avoids ℕ-subtraction by summing over the
+antidiagonal and also with the binomial coefficient applied via scalar action of ℕ. -/
+theorem _root_.add_pow' [CommSemiring R] (x y : R) (n : ℕ) :
```
Comment (faenuccio) [inline Mathlib/Data/Nat/Choose/Sum.lean]: Why do you explicitely mark it in `_root_.`? We're already in the root namespace.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 2]
```diff
@@ -0,0 +1,366 @@
...
+  exponential type.
+
+* `PowerSeries.ExponentialModule R` : the exponential module of the commutative ring `R`.
+
+* `PowerSeries.ExponentialModule.linearMap`: for an `A`-algebra map `f : R →ₐ[A] S`, we define
+  the induced `linearMap f : ExponentialModule R →ₗ[A] ExponentialModule S`.
+
+## Main Results
+
+* `PowerSeries.IsExponential.neg` : if `f : R⟦X⟧` is an exponential power series, then the power
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:31]:
```suggestion
* `PowerSeries.IsExponential.neg` : if `f : R⟦X⟧` is of exponential type, then the power
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 3]
```diff
@@ -0,0 +1,366 @@
...
+  series `f(-X)` is exponential.
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:32]:
```suggestion
  series `f(-X)` is of exponential type.
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 4]
```diff
@@ -0,0 +1,366 @@
...
+
+* `PowerSeries.IsExponential.invOfUnit_eq_rescale_neg_one` : if `f : R⟦X⟧`, then the inverse of `f`
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean]: Aren't you missing the requirement that `f` be of exponential type here?

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 5]
```diff
@@ -0,0 +1,366 @@
...
+  is equal to the power series `f(-X)`.
+
+## TODO
+
+Once substitution of power series is available for `CommSemiring` (work in progress),
+`PowerSeries.IsExponential` and `PowerSeries.ExponentialModule R` could automatically be generalized
+to that setting.
+
+-/
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:43]: Do you have some canonical reference?

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 6]
```diff
@@ -0,0 +1,366 @@
...
+
+@[expose] public section
+
+open Finset Finsupp MvPowerSeries Nat
+
+namespace PowerSeries
+
+variable {A R S : Type*}
+
+name_power_vars X₀, X₁ over R
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:53]: In the doc you call your variables `X` and `Y`, here you use `X₀` and `X₁`: can we make the two homogeneous?

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 7]
```diff
@@ -0,0 +1,366 @@
...
+
+section CommSemiring
+
+-- TODO: generalize to `CommSemiring R`.
+variable [CommSemiring A] [CommRing R] [Algebra A R] [CommSemiring S] [Algebra A S]
+
+/-- A power series `f : R⟦X⟧` is exponential if `f(X + Y) = f(X)*f(Y)` and `f(0) = 1`. -/
+structure IsExponential (f : R⟦X⟧) : Prop where
+  add_mul : subst (S := R) (X₀ + X₁) f = subst X₀ f * subst X₁ f
+  constantCoeff : constantCoeff f = 1
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:63]: In accordance with `https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Defs.html#Polynomial.Monic` I would have called this field `monic`, no? Also, it conveys more information. Finally: in the initial doc you don't require this condition, but I would actually add it also there.

On another point: why do you stress `S := R`? It seems an old need from before the new changes in 4.30, because commenting that out everything seems to compile perfectly. I've also compared the signatures with and without this, and they coincide.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 8]
```diff
@@ -0,0 +1,366 @@
...
+name_power_vars X₀, X₁ over R
+
+section CommSemiring
+
+-- TODO: generalize to `CommSemiring R`.
+variable [CommSemiring A] [CommRing R] [Algebra A R] [CommSemiring S] [Algebra A S]
+
+/-- A power series `f : R⟦X⟧` is exponential if `f(X + Y) = f(X)*f(Y)` and `f(0) = 1`. -/
+structure IsExponential (f : R⟦X⟧) : Prop where
+  add_mul : subst (S := R) (X₀ + X₁) f = subst X₀ f * subst X₁ f
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean]: I confess I don't like very much this name: I of course understand that it conveys the idea that addition becomes multiplication, but I'd rather call it `exp_add` in coherence with https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/Exponential.html#Real.exp_add or something of this flavour (actually the `subst_add_eq_mul` that you use below is nice); `add_mul` is overcharged and it rather refers to distributivity of addition over multiplication.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 9]
```diff
@@ -0,0 +1,366 @@
...
+  constantCoeff : constantCoeff f = 1
+
+/-- A power series `f` satisfies `f(X + Y) = f(X)*f(Y)` iff its coefficients `f n` satisfy
+  the relations `(p + q).choose p * f (p + q)= f p * f q`. -/
+theorem subst_add_eq_mul_iff (f : R⟦X⟧) :
+    (subst (S := R) (X₀ + X₁) f) = (subst X₀ f) * (subst X₁ f) ↔
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean]: Same question as above concerning the `S := R`.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 10]
```diff
@@ -0,0 +1,366 @@
...
+  `(p + q).choose p * f (p + q)= f p * f q` and its constant coefficient is `1`. -/
+theorem isExponential_iff {f : R⟦X⟧} :
+    IsExponential f ↔ (∀ p q, (p + q).choose p * coeff (p + q) f = coeff p f * coeff q f) ∧
+      (constantCoeff f = 1) := by
+  rw [← subst_add_eq_mul_iff]
+  exact ⟨fun hf ↦ ⟨hf.add_mul, hf.constantCoeff⟩, fun hf ↦ ⟨hf.1, hf.2⟩⟩
+
+namespace IsExponential
+
+/-- The unit power series is exponential. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:84]:
```suggestion
/-- The unit power series is of exponential type. -/
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 11]
```diff
@@ -0,0 +1,366 @@
...
+protected theorem one : IsExponential (1 : R⟦X⟧) where
+  add_mul := by
+    rw [← Polynomial.coe_one, subst_coe (HasSubst.X 1), subst_coe (HasSubst.X 0),
+      subst_coe ((HasSubst.X 0).add (HasSubst.X 1))]
+    simp
+  constantCoeff := by simp only [map_one]
+
+/-- If `f` and `g` are exponential, then so is `f * g`. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:92]:
```suggestion
/-- If `f` and `g` are of exponential type, then so is `f * g`. -/
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 12]
```diff
@@ -0,0 +1,366 @@
...
+protected theorem mul {f g : PowerSeries R} (hf : IsExponential f) (hg : IsExponential g) :
+    IsExponential (f * g) where
+  add_mul := by
+    repeat rw [← coe_substAlgHom (HasSubst.of_constantCoeff_zero (by simp))]
+    simp only [map_mul, coe_substAlgHom, hf.add_mul, hg.add_mul]
+    ring
+  constantCoeff := by simp only [map_mul, hf.constantCoeff, hg.constantCoeff, mul_one]
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean]:
```suggestion
```
No longer needed.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 13]
```diff
@@ -0,0 +1,366 @@
...
+/-- If `f` is exponential and  `n : ℕ`, then `f ^ n` is exponential. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:101]:
```suggestion
/-- If `f` is of exponential type and  `n : ℕ`, then `f ^ n` is of exponential type. -/
```
OK, I realise that you really have in mind to call them "exponential", which is fine, but then I'd change the doc at the top.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 14]
```diff
@@ -0,0 +1,366 @@
...
+/-- The unit power series is exponential. -/
+protected theorem one : IsExponential (1 : R⟦X⟧) where
+  add_mul := by
+    rw [← Polynomial.coe_one, subst_coe (HasSubst.X 1), subst_coe (HasSubst.X 0),
+      subst_coe ((HasSubst.X 0).add (HasSubst.X 1))]
+    simp
+  constantCoeff := by simp only [map_one]
+
+/-- If `f` and `g` are exponential, then so is `f * g`. -/
+protected theorem mul {f g : PowerSeries R} (hf : IsExponential f) (hg : IsExponential g) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean]:
```suggestion
protected theorem mul {f g : R⟦X⟧} (hf : IsExponential f) (hg : IsExponential g) :
```

**Review by faenuccio — COMMENTED** [review]
Thanks! I went through the first 100 lines and will resume the review later.

**Review by faenuccio — COMMENTED** [review]
awaiting-author

File: Mathlib/Data/Nat/Choose/Sum.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/Data/Nat/Choose/Sum.lean]: I removed the `_root_` (I forgot to do this when moving the result to the right file for the PR).

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 4 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean]: Indeed, thanks.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 6 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:53]: I switched to `X₀` and `X₁` in the docs.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 7 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:63]: The `S := R` is indeed because this was needed when we wrote this, but since now it is not, I have removed it.

Regarding the `monic` suggestion: is this standard terminology? I could not find a reference (and I could imagine e.g. `X` (or `X + a_2X^2 + ...)` being called a "monic" power series).

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 8 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean]: I'll rename it to `subst_add_eq_mul`.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 5 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:43]: For the work in progress, there was a draft PR (#30631) by @ADedecker (but I don't know the current status).

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 13 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:101]: We used "exponential" and "of exponential type" interchangeably. I will expand the doc to make this clear.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 5 above)
Comment (faenuccio) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:43]: I meant a book (if the answer is "no", let be it...)

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:63]: Oh sorry! I misread "constant coefficient" for "leading coefficient" and proposed a very stupid thing. Forgive the noise, I'm happy with this name for the field.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 15]
```diff
@@ -0,0 +1,357 @@
...
+
+public import Mathlib.Algebra.Ring.Ext
+public import Mathlib.RingTheory.PowerSeries.Inverse
+public import Mathlib.RingTheory.PowerSeries.Substitution
+
+/-! # Exponential module of a commutative ring
+
+Let `R` be a commutative ring. The exponential module of `R` is the set of all power series
+`f : R⟦X⟧` that are *exponential* or *of exponential type*, i.e.,  `f (X₀ + X₁) = f X₀ * f X₁`
+where `X₀` and `X₁` are two indeterminates. It is an abelian group under multiplication, and an
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:16]: Don't you want to also add here the condition that `f(0)=1`?

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 16]
```diff
@@ -0,0 +1,357 @@
...
+  constantCoeff := by simp only [map_one]
+
+/-- If `f` and `g` are exponential, then so is `f * g`. -/
+protected theorem mul {f g : R⟦X⟧} (hf : IsExponential f) (hg : IsExponential g) :
+    IsExponential (f * g) where
+  subst_add_eq_mul := by
+    repeat rw [← coe_substAlgHom (HasSubst.of_constantCoeff_zero (by simp))]
+    simp only [map_mul, coe_substAlgHom, hf.subst_add_eq_mul, hg.subst_add_eq_mul]
+    ring
+  constantCoeff := by simp only [map_mul, hf.constantCoeff, hg.constantCoeff, mul_one]
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:99]:
```suggestion
  constantCoeff := by simp [hf.constantCoeff, hg.constantCoeff]
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 17]
```diff
@@ -0,0 +1,357 @@
...
+      subst_coe ((HasSubst.X 0).add (HasSubst.X 1))]
+    simp
+  constantCoeff := by simp only [map_one]
+
+/-- If `f` and `g` are exponential, then so is `f * g`. -/
+protected theorem mul {f g : R⟦X⟧} (hf : IsExponential f) (hg : IsExponential g) :
+    IsExponential (f * g) where
+  subst_add_eq_mul := by
+    repeat rw [← coe_substAlgHom (HasSubst.of_constantCoeff_zero (by simp))]
+    simp only [map_mul, coe_substAlgHom, hf.subst_add_eq_mul, hg.subst_add_eq_mul]
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:97]:
```suggestion
    simp [map_mul, coe_substAlgHom, hf.subst_add_eq_mul, hg.subst_add_eq_mul]
```
since `ring` is flexible, we don't squeeze this.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 18]
```diff
@@ -0,0 +1,357 @@
...
+    ring
+  constantCoeff := by simp only [map_mul, hf.constantCoeff, hg.constantCoeff, mul_one]
+
+/-- If `f` is exponential and  `n : ℕ`, then `f ^ n` is exponential. -/
+protected theorem npow {f : R⟦X⟧} (hf : IsExponential f) (n : ℕ) :
+    IsExponential (f ^ n) := by
+  induction n with
+  | zero => simp [pow_zero, IsExponential.one]
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:105]:
```suggestion
  | zero => simp [IsExponential.one]
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 19]
```diff
@@ -0,0 +1,357 @@
...
+  | succ n hn => simp [pow_succ, hn.mul hf]
+
+/-- If `f` is exponential, then `f(r • T)` is exponential, for any `r : R`. -/
+protected theorem rescale (a : A) {f : R⟦X⟧} (hf : IsExponential f) :
+    IsExponential (rescale (algebraMap A R a) f) := by
+  rw [isExponential_iff] at hf ⊢
+  refine ⟨fun p q ↦ ?_, ?_⟩
+  · simp only [coeff_rescale, mul_mul_mul_comm, ← hf.1 p q]
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:113]:
```suggestion
  · simp [mul_mul_mul_comm, ← hf.1 p q]
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 20]
```diff
@@ -0,0 +1,357 @@
...
+    ring
+  · rw [← coeff_zero_eq_constantCoeff, coeff_rescale]
+    simp [hf.2]
+
+protected theorem rescale_add (r s : A) {f : R⟦X⟧} (hf : IsExponential f) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:118]: I'd call it `rescale_add_mul`

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 21]
```diff
@@ -0,0 +1,357 @@
...
+    ← mul_assoc, hf.1 k.1 k.2]
+  ring
+
+end IsExponential
+
+open Additive
+
+section Instances
+
+noncomputable instance : SMul A (Additive R⟦X⟧) where
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:136]: Can you add a line of doc to this instance? IIUC you're endowing `R⟦X⟧` with a second additive structure `(f +₂ g) := f * g` and defining a multiplicative action of `A` on it, right? Why do you prefer it to using https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#HPow ?

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 22]
```diff
@@ -0,0 +1,357 @@
...
+  smul r f := ofMul.toFun (rescale (algebraMap A R r) (toMul f))
+
+lemma toAdditive_smul_coe (r : A) (f : R⟦X⟧) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:139]: I think that in most declarations we prefer `ofMul` rather than `toAdditive`, see for instance [ofMul_div a](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/TypeTags/Basic.html#ofMul_div) and its friends. If you agree, can you please change all the names below?

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 23]
```diff
@@ -0,0 +1,357 @@
...
+      rw [← this, mul_comm]
+    simp [toAdditive_smul_coe, rescale_mul]
+  smul_zero a := by
+    rw [← ofMul_one, toAdditive_smul_coe, map_one]
+  smul_add := by simp [toAdditive_smul_coe, ← ofMul_mul]
+
+end Instances
+
+variable (R) in
+/-- The `R`-module of exponential power series `f : R⟦X⟧` satisfying `f(X₀ + X₁) = f(X₀) f(X₁)` and
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:159]:
```suggestion
/-- The `R`-module of exponential power series `f : R⟦X⟧` satisfying `f(X₀ + X₁) = f(X₀) * f(X₁)` and
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 24]
```diff
@@ -0,0 +1,357 @@
...
+  `f(0) = 1`. The addition law is the multiplication of power series.
+  The scalar multiplication law is given by `PowerSeries.rescale`.
+  This is implemented as an `AddSubmonoid (Additive R⟦X⟧) `. -/
+def ExponentialModule : AddSubmonoid (Additive R⟦X⟧) where
+  carrier := { f : Additive R⟦X⟧ | IsExponential (toMul f) }
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:164]:
```suggestion
  carrier := {f : Additive R⟦X⟧ | IsExponential (toMul f)}
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 25]
```diff
@@ -0,0 +1,357 @@
...
+lemma mem_exponentialModule_iff' (f : Additive R⟦X⟧) :
+    f ∈ ExponentialModule R ↔ IsExponential (toMul f) := by
+  simp [ExponentialModule]
+
+namespace ExponentialModule
+
+open PowerSeries Additive
+
+/-- The coercion map from `ExponentialModule R` to `R⟦X⟧`. -/
+@[coe] def toPowerSeries (f : ExponentialModule R) : R⟦X⟧ := toMul (f : Additive R⟦X⟧)
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:181]:
```suggestion
@[coe] def toPowerSeries (f : ExponentialModule R) : R⟦X⟧ := toMul f
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 26]
```diff
@@ -0,0 +1,357 @@
...
+## TODO
+
+Once substitution of power series is available for `CommSemiring` (work in progress),
+`PowerSeries.IsExponential` and `PowerSeries.ExponentialModule R` could automatically be generalized
+to that setting.
+
+-/
+
+@[expose] public section
+
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:46]: I would not expose the whole module. You can
1. Remove the `@[expose]` here
1. Add `@[expose]` in the definition of `ExponentialModule` as an attribute (that one deserves probably to be exposed)
1. Fix the four `rfl` proofs that break by replacing `rfl` with `by rfl` (some magic makes this work).

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 27]
```diff
@@ -0,0 +1,357 @@
...
+  fun f g ↦ by simp [toPowerSeries]
+
+@[simp, norm_cast]
+lemma coe_inj {f g : ExponentialModule R} : (f : R⟦X⟧) = ↑g ↔ f = g := coe_injective.eq_iff
+
+@[ext]
+lemma coe_ext {f g : ExponentialModule R} (h : (f : R⟦X⟧) = ↑g) : f = g := coe_injective h
+
+@[simp]
+theorem toMul_val_eq_coe {f : ExponentialModule R} : toMul (↑f : Additive R⟦X⟧) = ↑f := rfl
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:196]:
```suggestion
theorem toMul_val_eq_coe {f : ExponentialModule R} : toMul (f : Additive R⟦X⟧) = ↑f := rfl
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 28]
```diff
@@ -0,0 +1,357 @@
...
+
+@[simp]
+theorem coe_mk {f : R⟦X⟧} (hf : IsExponential f) : ↑(⟨ofMul f, hf⟩ : ExponentialModule R) = f := rfl
+
+noncomputable instance instSMul : SMul A (ExponentialModule R) where
+  smul r f := ⟨r • (f : Additive R⟦X⟧), by
+    simp only [mem_exponentialModule_iff', toAdditive_smul_coe']
+    exact f.prop.rescale (algebraMap A R r)⟩
+
+theorem smul_def (r : A) (f : ExponentialModule R) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:206]: I have a small objection to this theorem (both its name and its statement): as it is, it provides the equality of two terms in Additive R⟦X⟧: but

1. I think it would be useful to have the equality between two terms in ExponentialModule
1. This is not the definition: it is the definition followed by coercion.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 25 above)
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:181]: I confess I'm not very convinced about these coercions: they seem to simplify `defeq` abuse between `Additive R⟦X⟧` and `R⟦X⟧`: do you have strong arguments in favour? I understand that you don't always want to explicitely type your gadgets, but the fact that `Additive` and `Multiplicative` are plain aliases makes the situation complex.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 29]
```diff
@@ -0,0 +1,357 @@
...
+  smul_zero r := by rw [← Subtype.coe_inj, smul_def, ZeroMemClass.coe_zero, smul_zero]
+  smul_add r f g := by simp [← Subtype.coe_inj, smul_def]
+  add_smul r s f := by
+    simp only [← Subtype.coe_inj, smul_def, AddSubmonoid.coe_add]
+    apply Additive.toMul.injective
+    simp [toAdditive_smul_coe', -toMul_val_eq_coe, f.prop.rescale_add r s]
+  zero_smul f := by
+    simp only [← Subtype.coe_inj, smul_def, ZeroMemClass.coe_zero]
+    apply Additive.toMul.injective
+    have hf : constantCoeff f = (1 : R) := f.prop.constantCoeff
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:221]:
```suggestion
    have hf : constantCoeff ↑f = (1 : R) := f.prop.constantCoeff
```
This is one example of the defeq abuse that is encouraged by the `coe`.

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 30]
```diff
@@ -0,0 +1,357 @@
...
+    simp [toAdditive_smul_coe', toMul_val_eq_coe, hf]
+
+lemma coe_add (f g : ExponentialModule R) : (↑(f + g) : R⟦X⟧) = ↑f * ↑g := by
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:224]:
```suggestion
lemma coe_add_mul (f g : ExponentialModule R) : (↑(f + g) : R⟦X⟧) = ↑f * ↑g := by
```

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean [hunk 31]
```diff
@@ -0,0 +1,357 @@
...
+  simp only [toPowerSeries, AddSubmonoid.coe_add, toMul_add]
+
+lemma coe_smul (r : A) (f : ExponentialModule R) :
+    ((r • f) : ExponentialModule R) = rescale (algebraMap A R r) (f : R⟦X⟧) := rfl
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:228]: Here  for instance you cannot really benefit of `↑f` and you're forced to type `f : R⟦X⟧` explicitly, hence my doubts about defining the coercion.

**Review by faenuccio — COMMENTED** [review]
Thanks, I've reviewed until the end of the section `Semiring`. Beyond small things here and there, the most relevant comments I have concern
1. Not `expose` ing everything by default
1. More importantly, I'm not convinced about your coercion between `ExponentialModule` and `R[[X]]`, for reasons that I try to explain in the comments.

**Review by faenuccio — COMMENTED** [review]
awaiting-author

File: Mathlib/RingTheory/PowerSeries/ExponentialModule.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/RingTheory/PowerSeries/ExponentialModule.lean:43]: Sorry, this PR was an experiment to see the feasibility of the approach. If it is needed I can bump it and write down the work remaining (IIRC, the most annoying part was missing API about `ModuleCon`...).
